US07402595B2
6-bromo-2-[4-(4-methoxycarbonylbenzenesulfinylmethyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-2-[4-(4-methoxycarbonylphenylsulfanylmethyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (189 mg) in dichloromethane (20 ml) was added 3-chloroperbenzoic acid (74 mg) under ice-cooling and the mixture was stirred under ice-cooling for 1 hr. The mixture was diluted with dichloromethane, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=7/3→1/4) to give the title compound (95 mg, 49%).

reactant | 6-bromo-2-[4-(4-methoxycarbonylphenylsulfanylmethyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 189 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)CSC1=CC=C(C=C1)C(=O)OC | C33H26BrNO5S
reactant | 3-chloroperbenzoic acid | 74 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-bromo-2-[4-(4-methoxycarbonylbenzenesulfinylmethyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 95 mg, 49% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)CS(=O)C1=CC=C(C=C1)C(=O)OC | C33H26BrNO6S
